data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2873,3192,[CH3:1][O:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)=[N+:35]([CH3:36])[C-:37]([C:38]#[N:39])[C:40]([CH3:41])=[O:42]>>[CH3:1][O:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:37]([C:38]#[N:39])([C:40]([CH3:41])=[O:42])[N:35]([CH3:36])[C:28]2([C:26]([O:25][CH3:24])=[O:27])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,38.47895447026764,-23.036996426057897
2332,2590,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17](=[O:18])[NH:19][CH3:20])=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17](=[O:18])[NH:19][CH3:20])[N:21]([CH3:22])[C:23]3([C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,34.740709791812776,-35.83748939214661
1192,1296,[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[N:10]#[C:11][C-:12]([O+:13]=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:12]([C:11]#[N:10])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:13][CH:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,8.360407275782041,-42.64547186990768
116,132,[CH3:12][O:13][C:14](=[O:15])[N-:16][N+:17]#[N:18].[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[N:16]([C:14]([O:13][CH3:12])=[O:15])[N:17]=[N:18]2,water,298.15,28.906040515393123,-11.230007392016924
4842,5524,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:23](=[O:24])[O:25][CH3:26],water,298.15,18.06322570703561,-20.895428111099697
1157,1258,[CH3:14][C:15](=[O:16])[CH:17]=[NH+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:19]([C:20]([CH3:21])=[O:22])([C:23]([CH3:24])=[O:25])[NH:18][CH:17]2[C:15]([CH3:14])=[O:16],water,298.15,17.107989319093853,-4.151030786262378
2207,2446,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C:24](=[O+:25][O-:26])[C:27](=[O:28])[O:29][CH3:30]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([NH:21][CH3:20])=[O:23])([C:27](=[O:28])[O:29][CH3:30])[O:25][O:26]2,water,298.15,25.594170544525408,-52.31985125289217
1999,2220,[CH3:14][NH:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:21]([C:22](=[O:23])[NH:24][CH3:25])([C:26](=[O:27])[NH:28][CH3:29])[N:19]([CH3:20])[CH:18]2[C:16]([NH:15][CH3:14])=[O:17],water,298.15,20.59533514149936,-28.10905515464274
2447,2715,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][C:21](=[O:22])[C:23]([CH3:24])=[N+:25]([CH3:26])[C-:27]([CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:23]([C:21]([CH3:20])=[O:22])([CH3:24])[N:25]([CH3:26])[C:27]2([CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,19.49025645529878,-38.88477196330452
5256,5961,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[C-:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:26]([C:27]#[N:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:24]([CH3:25])[C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,33.953631580698925,-1.151404899903845
